2-section helical, 2 m band
* NOTE: both resonators are written in terms of one f0, so this model is
* symmetric by construction and cannot represent a detuned pair.  Use
* helical_2m_asym.net when you care about the detune -- which, while tuning, is
* most of the time.
*
* Topology: two parallel L||C resonators, magnetically coupled through the
* aperture, each fed by a tap on the coil.  The tap is modelled as an ideal
* autotransformer, which is exactly why L below is a GAUGE and not a
* measurement -- see README, "What the model can and cannot tell you".
.param f0=145.4Meg  L=330n  qu=670  k=0.0121  qe=46

.port 1 p1 0 Z0=50
.port 2 p2 0 Z0=50

X1 p1 0 n1 0 n={sqrt(50/(2*pi*f0*L*qe))}
L1 n1 0 {L} Q={qu}
C1 n1 0 {1/(4*pi*pi*f0*f0*L)}

L2 n2 0 {L} Q={qu}
C2 n2 0 {1/(4*pi*pi*f0*f0*L)}
K1 L1 L2 {k}
X2 p2 0 n2 0 n={sqrt(50/(2*pi*f0*L*qe))}

.ac lin 401 95.4Meg 195.4Meg

* Turn these loose with `vnafit fit`.
.fit k  0.015 0.002 0.1
.fit qe 60    10    400
.fit f0 145Meg 140Meg 150Meg

* L is NOT fitted, and that is the point rather than an oversight.  With the
* ports tapped, every impedance in this circuit scales together, so raising L
* and lowering C at fixed f0/k/qe/Qu changes |S21| by about 1e-11 dB -- L is an
* exact gauge freedom and the data cannot see it.  Uncomment the line below and
* the fit will slide along that flat direction until it hits a rail; the tool
* will say AT BOUND and refuse to quote an uncertainty, which is correct, but
* the right answer is not to declare it free in the first place.
* Gauge-fix hard.  See tests/test_identifiability.py.
*.fit L  900n  30n   9u
