K9DP QRP BCI filter, version 2 (821/471, 18 turns)
*
* Same 5-element high-pass topology as version 1, different prototype.  The kit
* page says v2 has "much higher AM band rejection"; this model says why.
*
*   p1 --C1-- a --C2-- b --C3-- p2
*             |        |
*             L1       L2
*             |        |
*            gnd      gnd
*
* PRINTED: C1 = C3 = 820 pF ("821"), C2 = 470 pF ("471"), 18 turns.
*
* INFERRED: 820/470 = 1.745, against g3/g1 = 1.722 for a 5-pole 0.1 dB
* Chebyshev -- not the Butterworth that fits v1.  So the redesign changed the
* prototype, not just the cutoff.  Backing that out gives fc = 3.385 MHz and
* predicts C2 = 476 pF against 470 printed (1.3%).
*
* THE CROSS-CHECK THAT MAKES THE CORE CREDIBLE.  Neither kit states the toroid.
* But each version independently implies the inductance its shunt arms need,
* and dividing by turns^2 gives the core's inductance factor:
*
*     v1   3.151 uH / 24^2  =  5.47 nH/N^2
*     v2   1.715 uH / 18^2  =  5.29 nH/N^2
*
* Two different prototypes, two different turn counts, and they agree to 3%.
* That is a real cross-check rather than a restatement: it says both versions
* use the SAME core, and pins its A_L near 5.3-5.5 nH/N^2.  Micrometals T44-2
* is 5.2 and T68-2 is 5.7; T50-2 (4.9) fits less well.  A T68 is large for a
* 3-inch 20 g inline filter, so T44-2 is the best single guess -- but this is
* an inference from two data points, not a measurement, and a swept unit would
* settle it in one shot.
*
.param fc=3.385Meg
.param al=5.2n            ; ASSUMED -- fit this against a real sweep
.param turns=18
.param lsh={al*turns*turns}
.param qL=180

.port 1 p1 0 Z0=50
.port 2 p2 0 Z0=50

C1 p1 a  820p
L1 a  0  {lsh} Q={qL}
C2 a  b  470p
L2 b  0  {lsh} Q={qL}
C3 b  p2 820p

.ac dec 601 300k 60Meg

.fit al    5.2n  2.5n  9n
.fit qL    180   30    2000
