Rough 2-pole guess
* Deliberately NOT matched to any particular filter.  Round numbers, one
* significant figure of thought.  This is what a model normally looks like when
* you sit down: the topology is right, the values are a guess.
*
* Two tapped resonators, magnetically coupled -- the helical arrangement.
.param f0=146Meg  L=330n  qu=800  k=0.015  qe=100

.port 1 p1 0 Z0=50
.port 2 p2 0 Z0=50

X1 p1 0 n1 0 n={sqrt(50/(2*pi*f0*L*qe))}
L1 n1 0 {L} Q={qu}
C1 n1 0 {1/(4*pi*pi*f0*f0*L)}
L2 n2 0 {L} Q={qu}
C2 n2 0 {1/(4*pi*pi*f0*f0*L)}
K1 L1 L2 {k}
X2 p2 0 n2 0 n={sqrt(50/(2*pi*f0*L*qe))}

.ac lin 401 120Meg 175Meg
