Never-seen 5-pole capacitively coupled test filter
.param L=68n  qu=150
.param cm=1.2p
.param cin=5.0p
.param c1=20p
.param c2=22p
.param c3=20p
.param al=3.5n
.param turns=4
.param lsh={al*turns*turns}
Cin p1 n1 {cin}
L1  n1 0 {L} Q={qu}
C1  n1 0 {c1}
Cm1 n1 n2 {cm}
L2  n2 0 {lsh} Q={qu}
C2  n2 0 {c2}
Cm2 n2 n3 {cm}
L3  n3 0 {L} Q={qu}
C3  n3 0 {c3}
Cout n3 p2 {cin}
.port 1 p1 0 Z0=50
.port 2 p2 0 Z0=50
.ac lin 401 60meg 300meg
