* parallel resonators coupled by series inductors, 146 MHz
V1 vsrc 0 AC 1
Rsrc vsrc p1 50
Rload p2 0 50
Cin p1 n1 12p
L1 n1 0 100n
C1 n1 0 11.5p
Lm1 n1 n2 470n
L2 n2 0 100n
C2 n2 0 11.5p
Lm2 n2 n3 470n
L3 n3 0 100n
C3 n3 0 11.5p
Cout p2 n3 12p
.ac lin 401 100Meg 200Meg
.end
