* 4-pole crystal (mesh) ladder at 10 MHz -- series LC arms, shunt coupling
V1 vsrc 0 AC 1
Rsrc vsrc p1 50
Rload p2 0 50
Lm1 p1 a1 1m
Cm1 a1 n1 0.2533p
Cc1 n1 0 120p
Lm2 n1 a2 1m
Cm2 a2 n2 0.2533p
Cc2 n2 0 120p
Lm3 n2 a3 1m
Cm3 a3 p2 0.2533p
.ac lin 601 9.97Meg 10.03Meg
.end
