* elliptic lowpass: a capacitor across each series arm puts a zero above fc
V1 vsrc 0 AC 1
Rsrc vsrc p1 50
Rload p2 0 50
C1 p1 0 120p
L2 p1 n1 340n
Cb2 p1 n1 33p
C3 n1 0 210p
L4 n1 p2 340n
Cb4 n1 p2 33p
C5 p2 0 120p
.ac lin 401 1Meg 120Meg
.end
