* 5-pole 0.1 dB Chebyshev highpass, 30 MHz, 50 ohm
V1 vsrc 0 AC 1
Rsrc vsrc p1 50
Rload p2 0 50
C1 p1 n1 92.5p
L2 n1 0 193.4n
C3 n1 n2 53.7p
L4 n2 0 193.4n
C5 n2 p2 92.5p
.ac lin 401 5Meg 200Meg
.end
