* 5-pole 0.1 dB Chebyshev lowpass, 30 MHz, 50 ohm (LTspice export)
V1 vsrc 0 AC 1
Rsrc vsrc p1 50
Rload p2 0 50
L1 p1 n1 304.2n
C2 n1 0 145.5p
L3 n1 n2 523.9n
C4 n2 0 145.5p
L5 n2 p2 304.2n
.ac lin 401 1Meg 120Meg
.end
