* series-resonant traps to ground: a notch at 146 MHz on a through line
V1 vsrc 0 AC 1
Rsrc vsrc p1 50
Rload p2 0 50
L1 p1 t1 100n
C1 t1 0 11.88p
Lser p1 n1 220n
L2 n1 t2 100n
C2 t2 0 11.88p
Lout n1 p2 220n
.ac lin 401 50Meg 300Meg
.end
